US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]-1-[5-(pyridin-4-yl)pyrimidin-2-yl]piperazine hydrochloride
In tetrahydrofuran (10 ml) and methanol (5.0 ml) was dissolved 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)-1-[5-(pyridin-4-yl)pyrimidin-2-yl]piperazine (583 mg). Under ice cooling, a mixture of sodium hydroxide (200 mg) and water (1.0 ml) was added dropwise to the resulting solution under ice cooling, followed by stirring at room temperature for 5 hours. Under ice cooling, concentrated hydrochloric acid (420 μl) was added to the reaction mixture to make it weakly acidic. The reaction mixture was then distilled under reduced pressure. To the residue were added morpholine (102 μl), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (239 mg) and 1-hydroxybenzotriazole hydrate (159 mg). The resulting mixture was dissolved in N,N-dimethylformamide (60 ml) and methylene chloride (30 ml). Diisopropylethylamine (760 μl) was added dropwise to the resulting solution under ice cooling, followed by stirring at room temperature for 12.5 hours. The reaction mixture was distilled under reduced pressure. A 100% aqueous solution of citric acid was added to the residue and it was extracted with methylene chloride. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and saturated aqueous NaCl solution, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to column chromatography (10% methanol—methylene chloride) using as a carrier silica gel, followed by crystallization from methylene chloride-tetrahydrofuran, whereby a crudely purified product (349 mg) was obtained. A portion (161 mg) of then product was dissolved in methylene chloride-methanol. To the resulting solution was added 1N aqueous hydrochloride in ethanol (260 μl) and the mixture was concentrated to dryness. Ethyl acetate was added to the concentrate and the solid thus obtained was collected by filtration, washed with ethyl acetate and dried, whereby the title compound (117 mg) was obtained as colorless powder.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)-1-[5-(pyridin-4-yl)pyrimidin-2-yl]piperazine | 583 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C1=NC=C(C=N1)C1=CC=NC=C1)CC(=O)OC | C26H24ClN5O4S
reactant | sodium hydroxide | 200 mg | [OH-].[Na+]
reactant | water | 1.0 ml | O | H2O
reactant | hydrochloric acid | 420 μl | Cl | ClH
reactant | hydrochloride | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 5.0 ml | CO | CH4O
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | ethanol | 260 μl | C(C)O | C2H6O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]-1-[5-(pyridin-4-yl)pyrimidin-2-yl]piperazine hydrochloride | 117 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C1=NC=C(C=N1)C1=CC=NC=C1)CC(=O)N1CCOCC1 | InChI=1S/C29H29ClN6O4S.ClH/c30-25-3-1-23-16-27(4-2-22(23)15-25)41(38,39)35-9-10-36(26(20-35)17-28(37)34-11-13-40-14-12-34)29-32-18-24(19-33-29)21-5-7-31-8-6-21;/h1-8,15-16,18-19,26H,9-14,17,20H2;1H
